US08106221B2
tert-butyl 3-(3-chlorophenyl)-3-(3-methoxypropoxy)propyl(isopropyl)carbamate was dissolved in a solution of 20% (V/V) TFA/CH2Cl2 (10 mL) and allowed to stir for 1 hour. The solvent and reagent were evaporated before re-dissolving in CH2Cl2 and washing with NaHCO3 saturated solution. The crude 3-(3-chlorophenyl)-N-isopropyl-3-(3-methoxypropoxy)propan-1-amine was isolated (138 mg) and used as is. MS ESI+ve m/z 299 (M+).

reactant | tert-butyl 3-(3-chlorophenyl)-3-(3-methoxypropoxy)propyl(isopropyl)carbamate | ClC=1C=C(C=CC1)C(CCN(C(OC(C)(C)C)=O)C(C)C)OCCCOC | C21H34ClNO4
solvent | TFA CH2Cl2 | 10 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-(3-chlorophenyl)-N-isopropyl-3-(3-methoxypropoxy)propan-1-amine | ClC=1C=C(C=CC1)C(CCNC(C)C)OCCCOC | C16H26ClNO2
